US04427560
The oxidation inhibitor, bis(dithiobenzil) nickel is prepared by adding a mixture of 100 grams of benzoin, 150 grams of phosphorus sulfide and 700 ml of dioxane to a 5 liter, single necked flask equipped with heating mantle and water cooled condenser. The above-described mixture is, then, refluxed for 2 hours, during which the thiophosphoric ester of dithiobenzoin is formed and hydrogen sulfide is evolved. The reaction mixture is cooled and a solution of 50 grams of nickel chloride (hydrated) in 200 ml of water is added to the flask and heated (212° F.) for 2 hours on a steam bath. Black crystals of bis(dithiobenzil) nickel are formed and collected by filtering the cooled solution. Purification is effected by extraction with boiling toluene.

reactant | benzoin | 100 grams | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | phosphorus sulfide | 150 grams | [P]=S | PS
reactant | dithiobenzoin | C1(=CC=CC=C1)C(=S)C(S)C1=CC=CC=C1 | C14H12S2
reactant | hydrogen sulfide | S | H2S
reactant | nickel chloride | 50 grams | [Ni](Cl)Cl
solvent | water | 200 ml | O | H2O
solvent | dioxane | 700 ml | O1CCOCC1 | C4H8O2
product | bis(dithiobenzil) nickel | [Ni].C1(=CC=CC=C1)C(=S)C(=S)C1=CC=CC=C1.C1(=CC=CC=C1)C(=S)C(=S)C1=CC=CC=C1 | InChI=1S/2C14H10S2.Ni/c2*15-13(11-7-3-1-4-8-11)14(16)12-9-5-2-6-10-12;/h2*1-10H;
